US05510350
2-Chloro-4-(5-methyl-1,3,4-oxadiazol-2-yl)phenol
A mixture of 3-chloro-4-hydroxybenzoic acid hydrazide (6 g) and 1,1,1-triethoxyethane (90 ml) was refluxed under nitrogen for 19.5 h. On cooling and stirring, the solid which crystallised out of the reaction mixture was filtered off, washed well with ethyl acetate and dried to give the title compound (1.8 g) T.l.c. ethanol Rf 0.65.

reactant | 3-chloro-4-hydroxybenzoic acid hydrazide | 6 g | ClC=1C=C(C(=O)NN)C=CC1O | C7H7ClN2O2
reactant | 1,1,1-triethoxyethane | 90 ml | C(C)OC(C)(OCC)OCC | C8H18O3
product | 2-Chloro-4-(5-methyl-1,3,4-oxadiazol-2-yl)phenol | 1.8 g | ClC1=C(C=CC(=C1)C=1OC(=NN1)C)O | C9H7ClN2O2
